US06420409B1
Methanesulfonyl chloride (1.1 ml) was added dropwise to a solution of 2-chloro-4-(trifluoromethyl)benzyl alcohol (2.64 g) and anhydrous triethylamine (2.3 ml) in anhydrous dichloromethane (30 ml) in a nitrogen stream under ice-cooling and the mixture was stirred for 30 minutes under the same conditions. The reaction mixture was successively washed with water, aqueous sodium hydrogencarbonate, and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate. The filtrate was concentrated to give 2-chloro-1-((methanesulfonyloxy)methyl)-4-(trifluoromethyl)benzene as white crystals (3.62 g).

reactant | Methanesulfonyl chloride | 1.1 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-chloro-4-(trifluoromethyl)benzyl alcohol | 2.64 g | ClC1=C(CO)C=CC(=C1)C(F)(F)F | C8H6ClF3O
reactant | triethylamine | 2.3 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-chloro-1-((methanesulfonyloxy)methyl)-4-(trifluoromethyl)benzene | 3.62 g | ClC1=C(C=CC(=C1)C(F)(F)F)COS(=O)(=O)C | C9H8ClF3O3S
